US05711939
Preparation of isooctanoic acid-2-ethyl-hexylester
2 g concentrated sulfuric acid were added to a solution of 130 g (1 mol) 2-ethylhexanol and 144 g (1 mol) "isooctanoic acid" (isomeric mixture from Ruhrchemie A. G., Oberhausen) in 300 ml toluene and heated to boiling with water separation until the equimolar amount of water separates (about 2 hours). After cooling it was washed with water and then with 10% sodium bicarbonate solution. The remaining end-product gave after distillation over a 15 cm Vigreux column 230 g (90%) isooctanoic acid-2-ethyl-hexylester as a colorless oil of medium viscosity.

reactant | sulfuric acid | 2 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethylhexanol | 1 mol, 130 g | C(C)C(CO)CCCC | C8H18O
reactant | isooctanoic acid | C(CCCCC(C)C)(=O)O | C8H16O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | isooctanoic acid-2-ethyl-hexylester | C(C)C(COC(CCCCC(C)C)=O)CCCC | C16H32O2
